US08236801B2
A.3 Synthesis of 2,3,6,7-Tetrahydro-benzo[1,2-b; 4,5-b′]difuran-4-carboxylic acid
4-Formyl-2,3,6,7-tetrahydro-benzo[1,2-b; 4,5-b′]difuran (0.25 mmol; Lit.: A. P. Monte, D. Marona-Lewicka, M. A. Parker, D. B. Wainscott, D. L. Nelson, D. E. Nichols J. Med. Chem., 1996, 39, 2953-2961) is added to a stirred suspension of silver(I) oxide (0.375 mmol) in an aq. NaOH solution (5%, 0.20 mL). The mixture is stirred for 5 h, filtered and washed with water (2.0 mL). The filtrate is cooled to 0° C. and made acidic by dropwise addition of hydrochloric acid (25%). The obtained suspension is filtered off and washed with ice-cold water and heptane. The residue is dried in vacuo to give the desired acid as a grey powder which is used without further purification. LC-MS (basic): tR=0.20 min; [M−H]−=205.2.

reactant | 4-Formyl-2,3,6,7-tetrahydro-benzo[1,2-b; 4,5-b′]difuran | C(=O)C1=C2C(OCC2)=CC2=C1OCC2 | C11H10O3
reactant | NaOH | 0.20 mL | [OH-].[Na+]
catalyst | silver(I) oxide | 0.375 mmol | [Ag-]=O
product | 2,3,6,7-Tetrahydro-benzo[1,2-b; 4,5-b′]difuran-4-carboxylic acid | O1C=2C(CC1)=C(C=1OCCC1C2)C(=O)O | C11H10O4
